US05374720
N,N-diisopropylethylamine (0.13 ml, 0.76 mmol) was dropwise added to a solution of allyl (5R,6S)-2-diphenoxyphosphoryloxy-6-[(R)-1-hydroxyethyl]-1-carbapen-2-em-3-carboxylate (369 mg, 0.76 mmol) and (2R,4S)-N-allyloxycarbonyl-4-mercapto-2-(2-pyrrolidon-3-ylmethyl)pyrrolidine (216 mg, 0.76 mmol) in acetonitrile (5.6 ml) under cooling with ice. The reaction mixture solution was stirred at the same temperature for one hour and further stirred at 5° C. for 16 hours. Ethyl acetate (60 ml) was added to the reaction solution. The mixture was washed sequentially with a saturated sodium hydrogen carbonate aqueous solution and a saturated sodium chloride aqueous solution, then dried over anhydrous sodium sulfate and concentrated. The residue was purified by silica gel flash column chromatography (Wakogel™ C-300, 40 ml, acetone-ethyl acetate 2:3). The fraction containing the desired product was concentrated to obtain allyl (5R,6S)-2-[(2R,4S)-N-allyloxycarbonyl-2-(2-pyrrolidon-3-ylmethyl)pyrrolidin-4-ylthio]-6-[(R)-1-hydroxyethyl]-1-carbapen-2-em-3-carboxylate (303 mg, yield: 76.7%) in the form of foam.

reactant | N,N-diisopropylethylamine | 0.76 mmol, 0.13 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | allyl (5R,6S)-2-diphenoxyphosphoryloxy-6-[(R)-1-hydroxyethyl]-1-carbapen-2-em-3-carboxylate | 0.76 mmol, 369 mg | O(C1=CC=CC=C1)P(=O)(OC1=CC=CC=C1)OC=1C[C@H]2N(C1C(=O)OCC=C)C([C@@H]2[C@@H](C)O)=O | C24H24NO8P
reactant | (2R,4S)-N-allyloxycarbonyl-4-mercapto-2-(2-pyrrolidon-3-ylmethyl)pyrrolidine | 0.76 mmol, 216 mg | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)S)CC1C(NCC1)=O | C13H20N2O3S
reactant | Ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 5.6 ml | C(C)#N | C2H3N
product | allyl (5R,6S)-2-[(2R,4S)-N-allyloxycarbonyl-2-(2-pyrrolidon-3-ylmethyl)pyrrolidin-4-ylthio]-6-[(R)-1-hydroxyethyl]-1-carbapen-2-em-3-carboxylate | 303 mg, yield: 76.7% | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC=1C[C@H]2N(C1C(=O)OCC=C)C([C@@H]2[C@@H](C)O)=O)CC2C(NCC2)=O | C25H33N3O7S
